US07964613B2
(3R/S)-3-(3-Tetrahydrofuranyl)amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine
Hydrochloride of the compound obtainable in Example 19 and tetrahydrofuran-3-one can be used in the method of Example 4-1 instead of hydrochloride of (S)-3-amino-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine and furfural, respectively, to obtain the title compound.

reactant | Hydrochloride | Cl | ClH
reactant | tetrahydrofuran-3-one | O1CC(CC1)=O | C4H6O2
reactant | (S)-3-amino-1-(4-bromo-5-isoquinolinesulfonyl)pyrrolidine | N[C@@H]1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Br | C13H14BrN3O2S
reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
product | (3R/S)-3-(3-Tetrahydrofuranyl)amino-1-(4-chloro-5-isoquinolinesulfonyl)pyrrolidine | O1CC(CC1)NC1CN(CC1)S(=O)(=O)C=1C=2C(=CN=CC2C=CC1)Cl | C17H20ClN3O3S
